US07935709B2
Step B: N-(4-Methoxybenzyl)(2-bromo-5-chlorophenyl)methanamine
To a stirred solution of 1-bromo-2-(bromomethyl)-4-chlorobenzene (1.70 g, 6 mmol) in ACN (10.0 mL) was added p-methoxybenzyl amine (0.91 g, 6.6 mmol) and potassium carbonate (2.08 g, 15.0 mmol) and the overall mixture was stirred at 80° C. overnight. After cooling, the reaction mixture was diluted with water (10 mL) and diluted with EtOAc (15 mL). The separated aqueous layer was extracted with EtOAc (10 mL×2) and the combined organic layers were washed with brine, dried over Na2SO4, and concentrated to give a crude residue which was washed with hexanes to obtain the desired product N-(4-methoxybenzyl)(2-bromo-5-chlorophenyl)methanamine as a pale yellow solid. MS m/e 340 (M+H)+.

reactant | 1-bromo-2-(bromomethyl)-4-chlorobenzene | 6 mmol, 1.70 g | BrC1=C(C=C(C=C1)Cl)CBr | C7H5Br2Cl
reactant | p-methoxybenzyl amine | 6.6 mmol, 0.91 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | potassium carbonate | 15.0 mmol, 2.08 g | C([O-])([O-])=O.[K+].[K+]
solvent | ACN | 10.0 mL | C(C)#N | C2H3N
solvent | water | 10 mL | O | H2O
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | N-(4-methoxybenzyl)(2-bromo-5-chlorophenyl)methanamine | COC1=CC=C(CNCC2=C(C=CC(=C2)Cl)Br)C=C1 | C15H15BrClNO
